US07727989B2
a) 6-Chloro-3-methoxypyridazine-4-carbaldehyde
n-Butyllithium is added dropwise at −75° C. to a solution of 2,2,6,6-tetramethyl-piperidine in THF. The solution is stirred at 0° C. for 30 minutes. After cooling to −75° C., a solution, precooled to −75° C., of 3-chloro-6-methoxypyridazine in THF is added dropwise. The reaction is stirred at −75° C. for 30 minutes. Subsequently, DMF precooled to −75° C. is added dropwise, and the mixture is stirred at −75° C. for a further 90 minutes. A mixture of conc. aqueous HCl (5 ml), ethanol (20 ml) and THF (25 ml), is added to the reaction mixture, which is warmed to room temperature, and saturated aqueous NaHCO3 solution is slowly added. THF is removed in a rotary evaporator, and the aqueous phase is extracted three times with dichloromethane. The combined organic phases are dried with MgSO4 and filtered, and the solvent is removed in a rotary evaporator. The residue is purified on silica gel (eluent ethyl acetate in heptane). MS (Cl+) m/z 172 (M+).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 2,2,6,6-tetramethyl-piperidine | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 3-chloro-6-methoxypyridazine | ClC=1N=NC(=CC1)OC | C5H5ClN2O
reactant | HCl | 5 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Chloro-3-methoxypyridazine-4-carbaldehyde | ClC1=CC(=C(N=N1)OC)C=O | C6H5ClN2O2
